US08729105B2
Preparation of 3-(Azidomethyl)-5-(trifluoromethyl)isoxazole
To a solution of 8.7 g (5-(trifluoromethyl)isoxazol-3-yl)methyl methanesulfonate in 87 mL DMF was added 9.23 g sodium azide. The reaction mixture was stirred 3 h at RT. 80 mL water was added under cooling. The mixture was extracted with diethyl ether (3×100 mL) and the organic layers were washed with water (3×100 mL) and then with sat. NaCl solution (1×100 mL). The combined organic layer was dried over Na2SO4, filtered off and concentrated in vacuo to yield 6.26 g of the title compound as a brown oil.

reactant | (5-(trifluoromethyl)isoxazol-3-yl)methyl methanesulfonate | 8.7 g | CS(=O)(=O)OCC1=NOC(=C1)C(F)(F)F | C6H6F3NO4S
reactant | sodium azide | 9.23 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 80 mL | O | H2O
solvent | DMF | 87 mL | CN(C)C=O | C3H7NO
product | 3-(Azidomethyl)-5-(trifluoromethyl)isoxazole | 6.26 g | N(=[N+]=[N-])CC1=NOC(=C1)C(F)(F)F | C5H3F3N4O
